US07429597B2
(a) dimethyl 6-amino-4-bromo-terephthalate
10.5 g (50 mmol) dimethyl amino-terephthalate and 8.1 ml (100 mmol) pyridine are dissolved in 175 ml dichloromethane and at −16° C. a solution of 2.7 ml (52.5 mmol) bromine in 25 ml dichloromethane is added dropwise. It is stirred for 4 hours at 0° C. and then heated overnight to ambient temperature. The mixture is added to ice water, washed three times with water and then dried over magnesium sulphate and evaporated down. The crude product is recrystallised from ethanol.

reactant | dimethyl amino-terephthalate | 50 mmol, 10.5 g | NC1=C(C(=O)OC)C=CC(=C1)C(=O)OC | C10H11NO4
reactant | pyridine | 100 mmol, 8.1 ml | N1=CC=CC=C1 | C5H5N
reactant | bromine | 52.5 mmol, 2.7 ml | BrBr | Br2
solvent | dichloromethane | 175 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | dimethyl 6-amino-4-bromo-terephthalate | NC1=CC(CC=C1C(=O)OC)(C(=O)OC)Br | C10H12BrNO4
